Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
right upper lip numbness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of DM, HTN,
and prior left lateral thalamic infarct who presents with lip
numbness. She noticed at 9:30 am that her right upper lip felt
numb. This is similar to her symptoms with a prior infarct. She
does not know when she last noticed her lip normal. 

At about 9:30, she was putting on chap stick, and felt that her
right upper lip was numb. She also noticed around the same time
that she was slightly disoriented: only in that she was in a
store looking for food scales and noticed that she could not
picture in her mind the store display that she had seen earlier,
and then discovered that she was in the wrong store. She found
this quite unusual for her. She drove home, and called Dr.
___. While dialing the phone, she noticed that her
vision was "patchy." Dr. ___ her to the ED. She did
note that she had checked her fingerstick glucose this morning
and it was 141.

A CODE STROKE was called at 12:15 pm; neurology was at the
bedside by 12:23 pm.  

Initial ___ Stroke Scale was 0:
1a. LOC: alert, responsive (0)  
1b. LOC questions: knew age and name of month (0)  
1c. LOC commands: closed eyes and gripped with left hand (0)  
2. Best gaze: No gaze palsy (0)  
3. Visual: No visual loss (0)  
4. Facial Palsy: normal, symmetrical movements (0)  
5a. Left arm: No drift (0)  
5b. Right arm: no drift (0)  
6a. Left leg: No drift (0)  
6b. Right leg: no drift (0)  
7. Limb ataxia: absent (0)  
8. Sensory: no sensory loss bilaterally (0)  
9. Language: No aphasia, normal (0)  
10. Dysarthria: None (0)  
11. Extinction/inattention: None (0)

On neuro ROS, Ms. ___ denied headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denied difficulties
producing or  comprehending speech.  Denied focal weakness or
parasthesiae. No bowel or bladder incontinence or retention.
Denied difficulty with gait.

On general review of systems, she complains of generalized
fatigue and urinary frequency and nocturia without dysuria. She
denied recent fever or chills.  No night sweats or recent weight
loss or gain. Denied cough, shortness of breath.  Denied chest
pain or tightness, palpitations.  Denied nausea, vomiting,
diarrhea, constipation or abdominal pain.  No recent change in
bowel habits.  No dysuria.  Denied arthralgias or myalgias.
Denied rash.

 
Past Medical History:
-stroke in the corona radiata extending into the anterior limb 
of the internal capsule on the right on ___. At that time, 
pt presented with dysarthria, hiccups, dysphagia, left facial 
droop and typing errors with the left hand. She does not think 
that she had any numbness or weakness at that time. 
-insulin dependent diabetes mellitus diagnosed ___, 
complications include diabetic retinopathy
-HTN
-Hyperlipidaemia
-depression
-iron deficiency anemia
-osteopenia

 
Social History:
___
Family History:
Father and paternal aunt DM.
No known history of neurologic disease.

 
Physical Exam:
Vitals: 98.9 79 128/60 16 97%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: ___ HSM at LUSB. RRR
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ without
difficulty. Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read and write without difficulty.  Speech was not 
dysarthric.
Able to follow both midline and appendicular commands. The pt.
had good knowledge of current events.  There was no evidence of
apraxia or neglect. Visuospatial construction was intact. She 
was
able to name 24 animals in 60 seconds.

-Cranial Nerves: Olfaction not tested. PERRL 5 to 2mm and brisk. 

VFF to confrontation. There is no ptosis bilaterally. 
Funduscopic
exam revealed no papilledema, exudates, or hemorrhages. EOMI
without nystagmus.  Normal saccades. Facial sensation intact to
pinprick. No facial droop, facial musculature symmetric. Hearing
intact to finger-rub bilaterally.  Palate elevates 
symmetrically.
___ strength in trapezii and SCM bilaterally. Tongue protrudes 
in
midline.

-Motor: Normal bulk, tone, and strength throughout in both upper
and lower extremities. No adventitious movements noted. No
asterixis noted. No pronator drift bilaterally.

-Sensory: Pt reports no loss of pinprick. Some decreased cold
sensation and vibration at distal feet. No extinction to DSS. 

-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF or HKS bilaterally.

-DTRs: 
  Bi Tri ___ Pat Ach
L  ___    3   3
R  ___    3   3

Plantar response was extensor bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
___ 10:35AM BLOOD WBC-5.3 RBC-3.83* Hgb-11.2* Hct-31.7* 
MCV-83 MCH-29.2 MCHC-35.3* RDW-13.8 Plt ___
___ 06:35AM BLOOD WBC-4.7 RBC-4.02* Hgb-11.5* Hct-33.3* 
MCV-83 MCH-28.6 MCHC-34.5 RDW-13.9 Plt ___
___ 12:20PM BLOOD WBC-5.3 RBC-3.97* Hgb-11.1* Hct-32.6* 
MCV-82 MCH-27.9 MCHC-34.0 RDW-14.0 Plt ___
___ 12:20PM BLOOD Neuts-64.9 ___ Monos-6.6 Eos-0.6 
Baso-0.2
___ 10:35AM BLOOD Plt ___
___ 06:35AM BLOOD Plt ___
___ 12:20PM BLOOD Plt ___
___ 12:20PM BLOOD ___ PTT-28.7 ___
___ 10:35AM BLOOD Glucose-244* UreaN-16 Creat-0.7 Na-127* 
K-4.9 Cl-92* HCO3-32 AnGap-8
___ 06:35AM BLOOD Glucose-160* UreaN-13 Creat-0.8 Na-133 
K-4.3 Cl-97 HCO3-28 AnGap-12
___ 12:20PM BLOOD Glucose-110* UreaN-18 Creat-0.8 Na-127* 
K-4.1 Cl-92* HCO3-26 AnGap-13
___ 12:20PM BLOOD CK(CPK)-87
___ 12:20PM BLOOD cTropnT-<0.01
___ 10:35AM BLOOD Calcium-9.3 Phos-3.3 Mg-2.1 Cholest-PND
___ 06:35AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.0 Cholest-PND
___ 12:20PM BLOOD Calcium-9.0 Phos-4.0 Mg-1.9
___ 06:35AM BLOOD %HbA1c-6.7*
 
Brief Hospital Course:
This ___ yo woman was admitted for right upper lip numbess, which 
she noticed while applying Chapstick, and also some mild 
confusion. When she arrived in the ER a code stroke was called, 
but by that time, that symptom had resolved, and only a b/l 
peripheral ___ neuropathy c/w her long-standing DM was 
appreciated. Brain MRI showed no acute infarct or vessel 
occlusion. HgbA1C was measured as 6.7. Her Zocor was increased 
empirically from 10 to 40 mg daily. Initially, her blood sodium 
level was found to be 127, but increased the following day to 
133 with increased PO intake. The following morning, she felt 
100% back to normal, was anxious to go home, and was discharged 
on ___. 
 
Medications on Admission:
Cilostazol (pletal) 50mg BID
aspirin 81 mg po daily
Fluoxetine 60mg daily
HCTZ 12.5mg daily
Olmesartan 20mg daily
Simvastatin 10mg daily
Vitamin C 500mg daily
Calcium + Vitamin D 250/200 BID
Omega 3 daily
Pyridoxine
Zinc
Ferrous sulfate
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Cilostazol 50 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
3. Fluoxetine 20 mg Capsule Sig: Three (3) Capsule PO DAILY 
(Daily).
Disp:*90 Capsule(s)* Refills:*2*
4. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. Multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).
Disp:*30 Cap(s)* Refills:*2*
8. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).
Disp:*60 Tablet, Chewable(s)* Refills:*2*
9. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
10. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
11. Pyridoxine 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
12. Zinc Sulfate 220 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).
Disp:*30 Capsule(s)* Refills:*2*
13. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hyponatremia

 
Discharge Condition:
stable

 
Discharge Instructions:
Your pattern of symptoms and brain and vessel imaging are not 
consistent with a stroke, and perhaps more reflect hyponatremia. 
However, to prevent future stroke, it is important to modify 
your risk factors, including diabetes, high blood pressure, and 
high blod cholesterol.  You should continue aspirin 81 mg daily, 
insulin and diet control for your diabetes, and we have 
increased your zocor to 40 mg daily. 
 
Followup Instructions:
___